*Component Created by Javier Petrucci and Agustin Gullino
* jpetrucc@itba.edu.ar / agullino@itba.edu.ar

* Transformer
*
* -------S || S-------
*		 S || S
*		 S || S
* -------S || S-------
*
.subckt Transformer1 V1+ V1- V2+ V2- PARAMS: L1=1u, L2=1u, Lp1={L1*0.05}, Lp2={L2*0.05}, Rp1=0.5, Rp2=0.5, Rc=1e12

Rp1 V1+ N002 {Rp1}
Lp1 N002 N003 {Lp1}
L1 V1- N003 {L1}
L2 V2- N004 {L2}
Lp2 N005 N004 {Lp2}
Rp2 V2+ N005 {Rp2}

Lcoreloss N010 N009 {L1}
Rc N009 N010 {Rc}
K1 L1 L2 Lcoreloss 1
.ends Transformer1